US07595401B2
Synthesis of 2-(2-chloro-ethyl)-1-propyl-piperidine
To a solution of 2-(1-propyl-piperidin-2-yl)-ethanol (0.150 g, 0.875 mmol) in dichloromethane (5 mL) was added thionyl chloride (1.0 mL, 13.70 mmol) at room temperature and the reaction mixture was refluxed for 3 h. The solvent and excess thionyl chloride was removed under reduced pressure. The product was dissolved in dichloromethane and evaporated to dryness. The product was used for the next step without further purifications. GC-MS m/z 189.00

reactant | 2-(1-propyl-piperidin-2-yl)-ethanol | 0.875 mmol, 0.150 g | C(CC)N1C(CCCC1)CCO | C10H21NO
reactant | thionyl chloride | 13.70 mmol, 1.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(2-chloro-ethyl)-1-propyl-piperidine | ClCCC1N(CCCC1)CCC | C10H20ClN
